US08304419B2
Step A: 3-chloro-5-({6-chloro-3-[(ethylamino)methyl]-2-fluorophenyl}oxy)benzonitrile
A solution of 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.50 g, 1.33 mmol) in THF (10 mL) was added dropwise to a 2M solution of EtNH2 (6.67 mL, 13.33 mmol) in THF. The flask was sealed and stirred at RT overnight. Ethyl acetate (100 ml) and saturated NaHCO3 solution (100 ml) were added. The organic layer was washed with brine (150 mL), dried over MgSO4, filtered and concentrated to give the title compound (0.48 g, quant.) as a tan solid. 1H NMR shows title compound plus a little residual EtNH2. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.04 (br. s., 1H), 7.83 (s, 1H), 7.62 (s, 2H), 7.45-7.55 (m, 2H), 4.14 (s, 2H), 2.95 (q, 2H), 1.18 (t, 3H). LCMS m/z 340.0 (M+H).

reactant | 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 1.33 mmol, 0.50 g | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrCl2FNO
reactant | EtNH2 | 13.33 mmol, 6.67 mL | C(C)N | C2H7N
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-chloro-5-({6-chloro-3-[(ethylamino)methyl]-2-fluorophenyl}oxy)benzonitrile | 0.48 g | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1Cl)CNCC)F | C16H13Cl2FN2O
